US04393180
m-Phenylenediamine (10.8 g; 0.1 mole) and triethylamine (20.2 g; 0.2 mole) in dry toluene (100 ml) were stirred and treated with trimethylchlorosilane (21.7 g; 0.2 mole) which was added dropwise over 1 hour. Stirring was continued for a further hour, and the mixture was then heated under reflux for 1 hour. After cooling and filtering the product, the solvent was evaporated to leave 24.2 g of m-bis(trimethylsilylamino)benzene, which is hereinafter referred to as Silamine II. This product has a theoretical amino-hydrogen equivalent weight of 63, i.e., its theoretical amino-hydrogen content is 15.87 equivalents/kg.

reactant | m-Phenylenediamine | 0.1 mole, 10.8 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | triethylamine | 0.2 mole, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 0.2 mole, 21.7 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | m-bis(trimethylsilylamino)benzene | 24.2 g | C[Si](C)(C)NC1=CC(=CC=C1)N[Si](C)(C)C | C12H24N2Si2
